US07074799B2
1. 5-Bromo-3-nitropyridine-2-carbonitrile
Heat a solution of 2-amino-5-bromo-3-nitropyridine (2.18 g, 10 mmol), cuprous cyanide (1.33 g, 15 mmol) and tert-butylnitrite (2.0 mL, 15 mmol) in acetonitrile (50 mL) to 60° C. for 2 hours. Cool the solution and partition between ethyl acetate (100 mL) and saturated aqueous NaHCO3 (100 mL). Extract the aqueous solution with ethyl acetate (2×50 mL), wash with water (100 mL), brine (100 mL), dry (MgSO4) and evaporate. Purify the solid by flash chromatography on silica gel (25% ether/75% hexane) to obtain the title compound as a pale yellow solid (934 mg, 41%).

reactant | 2-amino-5-bromo-3-nitropyridine | 10 mmol, 2.18 g | NC1=NC=C(C=C1[N+](=O)[O-])Br | C5H4BrN3O2
reactant | tert-butylnitrite | 15 mmol, 2.0 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 5-Bromo-3-nitropyridine-2-carbonitrile | 934 mg, 41% | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
